US05296624
A 3-liter, 4-necked flask equipped with an overhead stirrer, condenser, pot thermometer and additional funnel was charged with 970 g (4.49 mol) of 25% sodium methoxide in methanol. To this was added 401 g (2.01 mol) of neohexylmethyldichlorosilane at a rate such as to maintain reflux. Upon completion of the reaction, additional sodium methoxide solution was added to bring the pH to 10. The reaction mixture was cooled to room temperature and 500 ml of hexane was added. The reaction mixture was then filtered and the volatiles removed at 60° C. and 150 mm pressure. The volatiles consisted of two layers. The lower methanol layer was extracted with hexane (2×200 ml) and combined with the original top layer of hexane. The combined hexane layers were distilled through an 18" glass packed column to give 268 g (70% of theory) of neohexylmethyldimethoxysilane. Neohexylmethyldiethoxysilane was prepared following an analogous procedure.

reactant | sodium methoxide | 4.49 mol, 970 g | C[O-].[Na+]
reactant | neohexylmethyldichlorosilane | 2.01 mol, 401 g | C(CC(C)(C)C)[Si](Cl)(Cl)C | C7H16Cl2Si
reactant | hexane | 500 ml | CCCCCC | C6H14
reactant | methanol | CO | CH4O
product | neohexylmethyldimethoxysilane | 268 g, 70% | C(CC(C)(C)C)[Si](OC)(OC)C | C9H22O2Si
